US04052395
6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone methyl isocyanate
To a hot solution of 1.0 g. of 6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone in 25 ml. of dioxane was added an excess molar amount (above 0.5 ml.) of methyl isocyanate and the mixture in a sealed vessel was allowed to stand at room temperature for 3 hours. Then, 5 ml. of n-hexane was added and the resulting mixture was cooled to give 1.0 g. of the desired product as needles of m.p. ca. 250° C. (with decomp.) (Yield 82%).

reactant | 6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | C11H8Cl2N2O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | methyl isocyanate | above 0.5 ml | CN=C=O | C2H3NO
solvent | n-hexane | CCCCCC | C6H14
product | 6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone methyl isocyanate | Yield 82% | CN=C=O.ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | InChI=1S/C11H8Cl2N2O.C2H3NO/c1-6-8(12)4-7(5-9(6)13)10-2-3-11(16)15-14-10;1-3-2-4/h2-5H,1H3,(H,15,16);1H3
